US20010021718A1
2-{(1R)-4-Cyclobutyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-N,N-dimethyl-1,3-oxazole-4-carboxamide
A solution of (3R)-6-cyclobutyl-3-{4-[(dimethylamino)carbonyl]-1,3-oxazol-2-yl}hexanoic acid (Preparation 121) (155 mg, 0.50 mmol) and N-methylmorpholine (90 μl, 0.82 mmol) in anhydrous tetrahydrofuran (8 ml) was cooled to 0° C., treated with isobutyl chloroformate (90 μl, 0.70 mmol) and stirred under a nitrogen atmosphere for 2 hours. O-(Trimethylsilyl)hydroxylamine (200 μl, 1.63 mmol) was added and the mixture was stirred for 18 hours, being allowed to warm to room temperature over this time. The mixture was then treated with methanol (2 ml) and stirred at room temperature for 10 minutes. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate and washed with water, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The oil was purified by column chromatography on silica gel eluting with a gradient system of 98:2 (dichloromethane:methanol) gradually changing to 90:10 (dichloromethane:methanol). The solid was triturated with diethyl ether, filtered and dried under reduced pressure to afford the title compound as a white solid (64 mg).

reactant | (3R)-6-cyclobutyl-3-{4-[(dimethylamino)carbonyl]-1,3-oxazol-2-yl}hexanoic acid | 0.50 mmol, 155 mg | C1(CCC1)CCC[C@H](CC(=O)O)C=1OC=C(N1)C(=O)N(C)C | C16H24N2O4
reactant | N-methylmorpholine | 0.82 mmol, 90 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.70 mmol, 90 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | O-(Trimethylsilyl)hydroxylamine | 1.63 mmol, 200 μl | C[Si](ON)(C)C | C3H11NOSi
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | methanol | 2 ml | CO | CH4O
product | 2-{(1R)-4-Cyclobutyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-N,N-dimethyl-1,3-oxazole-4-carboxamide | 64 mg | C1(CCC1)CCC[C@H](CC(=O)NO)C=1OC=C(N1)C(=O)N(C)C | C16H25N3O4
